US04017621
To a suspension of sodium amide (0.08 g) in benzene was added a solution of 5-(2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine (0.5 g) in benzene under ice cooling, and the resulting mixture was stirred at room temperature for 30 minutes. to the reaction mixture was added a solution of ethyl bromide (0.22 g) in benzene under ice cooling, and the resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was cooled, admixed with water and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate and evaporated to afford 5-(4-ethyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine as an oily substance.

reactant | sodium amide | 0.08 g | [NH2-].[Na+]
reactant | 5-(2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 0.5 g | N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C19H22N2O
reactant | ethyl bromide | 0.22 g | C(C)Br | C2H5Br
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(4-ethyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | C(C)N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C21H26N2O
